US07138402B2
4-Chloro-5-(2-isobutylamino-ethyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
A mixture of N-{5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-yl}-acetamide (344 mg, 0.70 mmol), 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine hydrochloride (175 mg, 0.77 mmol), K2CO3 (516 mg, 3.7 mmol) and DMF (3.0 mL) was stirred at rt overnight. Work-up (EtOAc/water; brine) afforded the title compound as an off-white solid which was used without further purification (516 mg, “115%”). HPLC Rt: 8.419 min. 1H-NMR (CDCl3): δ 8.20 (s, 1H), 7.95 (s, 1H), 7.55 (dd, 4H), 7.32 (m, 6H), 7.04 (s, 1H), 5.37 (s, 2H), 3.91 (t, 2H), 3.73 (s, 3H), 3.06 (t, 2H), 2.57 (s, 3H), 2.26 (s, 3H), 2.25 (s, 3H), 0.97 (s, 9H).

reactant | N-{5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-yl}-acetamide | 0.70 mmol, 344 mg | C(C)(C)(C)[Si](OCCC1=CNC=2N=C(N=C(C21)Cl)NC(C)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H29ClN4O2Si
reactant | 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine hydrochloride | 0.77 mmol, 175 mg | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | K2CO3 | 3.7 mmol, 516 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 3.0 mL | CN(C)C=O | C3H7NO
reactant | EtOAc water | CCOC(=O)C.O
solvent | brine | [Cl-].[Na+].O
product | 4-Chloro-5-(2-isobutylamino-ethyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | ClC=1C2=C(N=C(N1)N)N(C=C2CCNCC(C)C)CC2=NC=C(C(=C2C)OC)C | C21H29ClN6O
